US08217029B2
181.i) (3S,4S)-4-Azido-pyrrolidin-3-ol
A solution of (3S,45)-1-(3-azido-4-trimethylsilanyloxy-pyrrolidin-1-yl)-2,2,2-trifluoro-ethanone (5.8 g, 19.57 mmol, prepared according to J. Org. Chem. 1997, 62, 4197) in MeOH (200 mL) was treated with K2CO3 (2.7 g, 1 eq) and the mixture stirred at rt for 4 h. concentrated in vacuo and purified by CC (DCM/MeOH 4:1+1% NH4OH) to give the title intermediate (2 g, 80% yield) as a brownish oil.

reactant | (3S,45)-1-(3-azido-4-trimethylsilanyloxy-pyrrolidin-1-yl)-2,2,2-trifluoro-ethanone | 19.57 mmol, 5.8 g | N(=[N+]=[N-])[C@H]1CN(C[C@@H]1O[Si](C)(C)C)C(C(F)(F)F)=O | C9H15F3N4O2Si
reactant | K2CO3 | 2.7 g, 1 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 200 mL | CO | CH4O
product | (3S,4S)-4-Azido-pyrrolidin-3-ol | 2 g, 80% yield | N(=[N+]=[N-])[C@@H]1[C@H](CNC1)O | C4H8N4O
